US09216980B2
Step 4: 9-Benzenesulfonyl-5-(1-ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 1-ethyl-4-methylene-piperidine (540 mg, 4.32 mmol) and 9-borabicyclo[3.3.1]nonane (0.5M in THF, 8.0 mL, 4.0 mmol) was heated at 65° C. for 3.5 h. The resultant cooled solution was then added portionwise to a degassed suspension of 9-benzenesulfonyl-5-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (420 mg, 1 mmol), bis(diphenylphosphino)ferrocene dichloropalladium(II) (90 mg, 0.11 mmol) and potassium carbonate (180 mg, 1.3 mmol) in water (1 mL) and dimethylformamide (10 mL). The resultant orange solution was heated at 65° C. for 2 h then allowed to cool to ambient temperature and partitioned between dichloromethane (20 mL) and a saturated aqueous solution of sodium chloride (15 mL). The aqueous phase was extracted with dichloromethane (3×10 mL) and the combined organic phase was washed with a saturated aqueous solution of sodium chloride (20 mL), dried over magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography (silica, 10 g column, Si-SPE, 0-20% MeOH in DCM) to afford the title compound (200 mg, 43%). 1H NMR (CDCl3, 400 MHz): 9.81 (s, 1H), 8.76 (dd, J=4.8, 1.5 Hz, 1H), 8.66 (d, J=8.0 Hz, 1H), 8.29-8.24 (m, 2H), 7.66-7.60 (m, 1H), 7.58-7.48 (m, 3H), 3.41 (d, J=7.2 Hz, 2H), 2.89 (q, J=7.3 Hz, 2H), 2.56-2.44 (m, 2H), 2.33-2.08 (m, 3H), 1.94-1.74 (m, 4H), 1.35 (t, J=7.3 Hz, 3H). LCMS (Method G): RT=3.01 min, M+H+=460.

reactant | 1-ethyl-4-methylene-piperidine | 4.32 mmol, 540 mg | C(C)N1CCC(CC1)=C | C8H15N
reactant | 9-borabicyclo[3.3.1]nonane | 4.0 mmol, 0.5M, 8.0 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 9-benzenesulfonyl-5-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 1 mmol, 420 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3Br)C#N)C=CC=N2 | C17H9BrN4O2S
reactant | potassium carbonate | 1.3 mmol, 180 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 mL | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium(II) | 0.11 mmol, 90 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 9-Benzenesulfonyl-5-(1-ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 200 mg, 43% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3CC3CCN(CC3)CC)C#N)C=CC=N2 | C25H25N5O2S
